US03991200
Preparation of 2-(2-Acetamido-5-thiadiazolyl)-1-(2-acetoxyethyl)-5-nitroimidazole
The sample (0.1 g.) of 2-amino-5-[1-(2-hydroxyethyl)-5-nitro-2-imidazolyl]thiadiazole is added to 1.5 ml. of acetic anhydride and heated under reflux for 20 minutes. After cooling, the mixture is evaporated to dryness to give a tan solid which is slurried with ether and collected, melting point 258°-265° C.; the yield is 0.11 g. This solid is recrystallized from acetone to give the purified product, melting point 264°-268° C.

reactant | 2-amino-5-[1-(2-hydroxyethyl)-5-nitro-2-imidazolyl]thiadiazole | 0.1 g | NN1SC(=CN1)C=1N(C(=CN1)[N+](=O)[O-])CCO | C7H10N6O3S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | ether | CCOCC | C4H10O
product | 2-(2-Acetamido-5-thiadiazolyl)-1-(2-acetoxyethyl)-5-nitroimidazole | C(C)(=O)NN1SC(=CN1)C=1N(C(=CN1)[N+](=O)[O-])CCOC(C)=O | C11H14N6O5S
